US03939157
3-(Triphenylmethylamino)-4-(4-tetrahydropyranyloxybut-2-ynylthio)azetidin-2-one (934 mg) and t-butylglyoxylate (2.5 g) were refluxed in benzene (20 ml) with provision for the removal of water. After 1 hour the cooled solution was washed with water (6 × 5 ml), dried and evaporated. Chromatography on silica gave 1-(1-hydroxy-1-t-butoxycarbonylmethyl)-3-(triphenylmethylamino)-4-(4-tetrahydropyranyloxybut-2-ynylthio)azetidine-2-one which still contained some t-butylglyoxylate. Re-chromatography on silica affored the pure material as an amorphous solid (519 mg) νmax (CHCl3) 3500, 3350, 1770, 1738 cm-1.

reactant | 3-(Triphenylmethylamino)-4-(4-tetrahydropyranyloxybut-2-ynylthio)azetidin-2-one | 934 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1C(NC1SCC#CCOC1OCCCC1)=O | C31H32N2O3S
reactant | t-butylglyoxylate | 2.5 g | C(C)(C)(C)C(C(=O)[O-])=O
reactant | water | O | H2O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 1-(1-hydroxy-1-t-butoxycarbonylmethyl)-3-(triphenylmethylamino)-4-(4-tetrahydropyranyloxybut-2-ynylthio)azetidine-2-one | OC(C(=O)OC(C)(C)C)N1C(C(C1SCC#CCOC1OCCCC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C37H42N2O6S
